US07514566B2
To a 250 mL round bottom flask was added ethyl 2-(3-fluoro-2-nitrophenyl)acetate (3.1 g, 14 mmol), iron (3.8 g, 68 mmol), and 50 mL of AcOH. The reaction mixture was heated at 60° C. for 1 hour. The reaction mixture was concentrated and dissolved in 100 mL of EtOAc, filtered, and washed with 50 mL of a saturated NaHCO3 solution. The organic layer was concentrated and purified with silica gel column chromatography, eluting with 40% EtOAc/hexane to give 7-fluoroindolin-2-one (1.2 g, 58% yield) as a white solid. MS m/z: 152 (M+1). 1H NMR (400 MHz, CDCl3) δ ppm 3.58 (s, 2H), 6.94-7.04 (m, 3H).

reactant | ethyl 2-(3-fluoro-2-nitrophenyl)acetate | 14 mmol, 3.1 g | FC=1C(=C(C=CC1)CC(=O)OCC)[N+](=O)[O-] | C10H10FNO4
catalyst | iron | 68 mmol, 3.8 g | [Fe] | Fe
solvent | AcOH | 50 mL | CC(=O)O | C2H4O2
product | 7-fluoroindolin-2-one | 1.2 g, 58% yield | FC=1C=CC=C2CC(NC12)=O | C8H6FNO
